US07164024B2
1-[1-[2-[1-(3-Pyridylcarbonyl)piperidin-4-yl]-1-methylethyl]-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
To 9.7 mg of 1-[1-[2-(piperidin-4-yl)-1-methylethyl]-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one which was synthesized by the method of Production Example 6, 1 ml of chloroform, 4.4 mg of nicotinic acid, 8 mg of 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride, 6.4 mg of 1-hydroxybenzotriazole and 0.01 ml of triethylamine were added and stirred for an overnight. To the reaction liquid 1N aqueous sodium hydroxide solution and chloroform were added to separate the reaction liquid. The organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off, and the residue was purified on silica gel chromatography (chloroform/methanol=11:1) to provide 10.1 mg of the title compound as a colorless solid.

reactant | 1-[1-[2-(piperidin-4-yl)-1-methylethyl]-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 9.7 mg | N1CCC(CC1)CC(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C20H30N4O
reactant | nicotinic acid | 4.4 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 6.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.01 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-[2-[1-(3-Pyridylcarbonyl)piperidin-4-yl]-1-methylethyl]-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 10.1 mg | N1=CC(=CC=C1)C(=O)N1CCC(CC1)CC(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C26H33N5O2
